US07723333B2
Phenyl N-(tert-butoxycarbonyl)-β-alaninate
The title compound was prepared from N-(tert-butoxycarbonyl)-β-alanine and phenol in a similar manner as described for 2,6-dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate. Mass Spectrum (M-tert-Bu)+H+ 211.09.

reactant | N-(tert-butoxycarbonyl)-β-alanine | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2,6-dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate | C(C)(C)(C)OC(=O)NCCCC(=O)OC1=C(C=CC=C1C)C | C17H25NO4
product | Phenyl N-(tert-butoxycarbonyl)-β-alaninate | C(C)(C)(C)OC(=O)NCCC(=O)OC1=CC=CC=C1 | C14H19NO4
